US06034099
From the reaction of 5-methyl-2-(4-aminophenyl)-2,4-dihydro-pyrazol-3-one and ethylchloroformate (per the reaction in Example 11) yields N-(4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-phenyl-carbamic acid ethyl ester. Subsequent reaction with 2-methoxyaniline yields N-(4-(4,5-dihydro-4-(2-methoxyanilinomethylene)-3-methyl-5-oxo-1H-pyrazol-1-yl)-phenyl)-carbamic acid ethyl ester, Mp: 212° C.

reactant | 5-methyl-2-(4-aminophenyl)-2,4-dihydro-pyrazol-3-one | CC=1CC(N(N1)C1=CC=C(C=C1)N)=O | C10H11N3O
reactant | ethylchloroformate | C(C)OC(=O)Cl | C3H5ClO2
product | 4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-phenyl-carbamic acid ethyl ester | C(C)OC(NC1=CC=C(C=C1)N1N=C(CC1=O)C)=O | C13H15N3O3
